US05958942
ii) Synthesis of 1,2-dihydro-3-methyl-1-[4-(methanesulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride
To a suspension of 500 mg (1.55 mmol) of 1,2-dihydro-3-methyl-1-[4-(methanesulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 20 ml of methanol was added 0.17 ml of conc. HCl. The solvent was then distilled off. The residue was washed with ether to give 555 mg of the desired compound (99.6%, colorless solid), m.p.166.0-167.0° C. NMR(200 MHz,DMSO-d6) δ: 1.53(2H,m), 1.82(2H,m), 2.79(3H,s), 2.86(3H,s), 2.96(2H,m), 4.09(2H,t,J=6.8 Hz), 7.00(1H,br), 7.56(1H,d,J=7.6 Hz), 7.76(1H,d,J=8.6 Hz), 8.15(1H,dd,J=8.6,7.6 Hz).

reactant | 1,2-dihydro-3-methyl-1-[4-(methanesulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 1.55 mmol, 500 mg | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNS(=O)(=O)C)=O | C14H18N4O3S
reactant | HCl | 0.17 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-1-[4-(methanesulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride | 555 mg, 99.6% | Cl.CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNS(=O)(=O)C)=O | InChI=1S/C14H18N4O3S.ClH/c1-10-13-14(19)17(9-4-3-8-15-22(2,20)21)12-7-5-6-11(16-10)18(12)13;/h5-7,15H,3-4,8-9H2,1-2H3;1H
